US06444668B1
To a solution of (4-amino-3′-chloro-biphenyl-3-yl)-cyclopropyl-methanone (0.67 g, 2.5 mmol) in anhydrous THF (10 mL) at −78° C. was added a solution of methylmagnesium bromide (3.0 M in diethyl ether, 2.5 mL, 7.5 mmol) under nitrogen. The reaction mixture was slowly warmed to rt, stirred under nitrogen for 12 hours, and quenched with a saturated aqueous ammonium chloride solution (40 mL). Ethyl acetate (50 mL) was added, organic layer was separated, and dried (MgSO4). After removal of solvent, the residue was purified via silica gel column (hexane:ethyl acetate/7:1) to afford 1-(4-amino-3′-chloro-biphenyl-3-yl)-1-cyclopropyl-ethanol as yellow oil: MS (EI) m/z 287/289 (M+).

reactant | (4-amino-3′-chloro-biphenyl-3-yl)-cyclopropyl-methanone | 2.5 mmol, 0.67 g | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(=O)C1CC1 | C16H14ClNO
reactant | methylmagnesium bromide | 7.5 mmol, 3.0 M, 2.5 mL | C[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-amino-3′-chloro-biphenyl-3-yl)-1-cyclopropyl-ethanol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(C)(O)C1CC1 | C17H18ClNO
